US07915281B2
Pyridine hydrochloride (3 mg, 0.02 mmol) and triethyl orthoformate (0.3 mL, 1.7 mmol) were added to a solution of 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine (0.4294 g, 1.164 mmol) in toluene (10 mL), and the reaction was heated at 110° C. for 16 hours. A solid was present and was isolated by filtration. The filtrate was concentrated under reduced pressure and triturated with diethyl ether to provide a solid. The two solids were combined and purified by column chromatography on silica gel (eluting with 1:1 ethyl acetate:hexane) to provide 0.259 g of 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinoline as a white solid, mp 219.0-220.0° C.

reactant | triethyl orthoformate | 1.7 mmol, 0.3 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine | 1.164 mmol, 0.4294 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1=CC(=NO1)C1=CC=C(C=C1)F | C19H14ClFN4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pyridine hydrochloride | 0.02 mmol, 3 mg | Cl.N1=CC=CC=C1
product | 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinoline | 0.259 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC2=CC(=NO2)C2=CC=C(C=C2)F | C20H12ClFN4O
